US09145380B2
c) 1-Bromo-4-[(E)-2-ethoxysulfonylethenyl]benzene
n-Butyllithium (59.0 mL, 1.6M solution in hexanes) was added dropwise during 25 min to a solution of ethylmethanesulfonate (9.1 mL, 86 mmol) in THF (200 mL) at −78° C. The reaction mixture was stirred for 15 min then diethyl chlorophosphate (7.2 ml, 50 mmol) was added dropwise. The solution was stirred at −78° C. for 30 min, allowed to warm to 0° C. and then cooled to −78° C. again. 4-Bromobenzaldehyde (9.2 g, 50 mmol) in THF (50 mL) was then added dropwise during 15 minutes and the resulting mixture was then allowed to slowly reach RT and stirred overnight. Water (20 mL) was added to the mixture and the reaction was concentrated in vacuo. The residue was extracted with diethyl ether and the combined organic extracts were washed with aqueous saturated sodium chloride, dried over magnesium sulfate, filtered and the solvent was evaporated in vacuo. Purification by column chromatography, using 15% ethyl acetate/hexanes as the eluent, afforded the title compound (9.3 g, 64%).

reactant | n-Butyllithium | 1.6M, 59.0 mL | C(CCC)[Li]
reactant | ethylmethanesulfonate | 86 mmol, 9.1 mL | C(C)CS(=O)(=O)[O-]
reactant | diethyl chlorophosphate | 50 mmol, 7.2 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | 4-Bromobenzaldehyde | 50 mmol, 9.2 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Water | 20 mL | O | H2O
product | 1-Bromo-4-[(E)-2-ethoxysulfonylethenyl]benzene | 9.3 g, 64% | BrC1=CC=C(C=C1)\C=C\S(=O)(=O)OCC | C10H11BrO3S
